simulator lang=spectre
global 0

ahdl_include "./dut/bbpd_ref.va"

Vdata (data 0) vsource type=pwl wave=[ \
0 0 \
9.9n 0 10.0n 0.9 \
19.9n 0.9 20.0n 0 \
29.9n 0 30.0n 0.9 \
39.9n 0.9 40.0n 0 \
49.9n 0 50.0n 0.9 \
59.9n 0.9 60.0n 0 \
70n 0 \
]
Vclk (clk 0) vsource type=pwl wave=[ \
0 0.9 \
12.0n 0.9 12.1n 0 \
28.0n 0 28.1n 0.9 \
42.0n 0.9 42.1n 0 \
52.0n 0 52.1n 0.9 \
58.0n 0.9 58.1n 0 \
70n 0 \
]
Vretimed_data (retimed_data 0) vsource type=pwl wave=[ \
0 0 \
18.0n 0 18.1n 0.9 \
34.0n 0.9 34.1n 0 \
48.0n 0 48.1n 0.9 \
56.0n 0.9 56.1n 0 \
70n 0 \
]
XDUT (data clk retimed_data up down) bbpd_ref

simulatorOptions options evas_profile=balanced

tran tran stop=70n maxstep=20p
save data clk retimed_data up down
