simulator lang=spectre
global 0

ahdl_include "./dut/bootstrapped_sampler_charge_metric.va"

Vvin (vin 0) vsource type=pwl wave=[0 0.45 10n 0.45 18n 0.82 32n 0.82 44n 0.12 58n 0.12 70n 0.55 80n 0.55]
Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 period=8n width=4.0n delay=1n rise=60p fall=60p
Vrst (rst 0) vsource type=pwl wave=[0 0.9 2n 0.9 2.1n 0 80n 0]
Venable (enable 0) vsource type=pwl wave=[0 0 4n 0 4.1n 0.9 56n 0.9 56.1n 0 64n 0 64.1n 0.9 80n 0.9]

XDUT (vin clk rst enable vhold boot_metric droop_flag) bootstrapped_sampler_charge_metric


simulatorOptions options evas_profile=balanced

tran tran stop=80n maxstep=80p
save vin clk rst enable vhold boot_metric droop_flag
